US03966720
N-methoxypyridinium methanesulfonate was prepared by mixing pyridine N-oxide and an equimolar amount of methylmethanesulfonate and heating the mixture at 95°C for 6 hours. The crude product obtained was recrystallized in a mixture of ethanol and ethyl acetate. By this procedure N-methoxypyridinium methanesulfonate having a melting point of 83° to 85.5°C were obtained.

reactant | pyridine N-oxide | [N+]1(=CC=CC=C1)[O-] | C5H5NO
reactant | methylmethanesulfonate | CCS(=O)(=O)[O-]
product | N-methoxypyridinium methanesulfonate | CS(=O)(=O)[O-].CO[N+]1=CC=CC=C1 | InChI=1S/C6H8NO.CH4O3S/c1-8-7-5-3-2-4-6-7;1-5(2,3)4/h2-6H,1H3;1H3,(H,2,3,4)/q+1;/p-1
